*	-----------------------------------------------------------------------------------------------------
*	Control library for LTSpice			KM 2008
*	-----------------------------------------------------------------------------------------------------
*	The models and results are believed to be accurate, but the author cannot take any 
*	responsibility for possible damage caused by mistakes or inaccuracies.
*	The content on this site is distributed in the hope that it will be useful, but WITHOUT ANY WARRANTY;
*	without even the implied warranty of MERCHANTABILITY or FITNESS FOR A PARTICULAR PURPOSE.
*
*	Use with SwitcherCAD III program, best to turn 'Skip initial operating point solution' option ON when 
*	doing transient simulation.
*	
*	See http://home.scarlet.be/kpm/
*	-----------------------------------------------------------------------------------------------------


*	PID controller
*	with dampened differentator for real world behavior and better convergence
*	Vo(s)/Vi(s) = Kp[ 1 + 1/(Ti.s) + Td.s/(1 + dampfactor.Td.s)] 
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with real world devices
*	Kp : proportional gain constant
*	Ti : intergration time constant
*	Td : differentation time constant
*	dampfactor : higher value means more damping. When a unit step is applied to IN the differentiator term 
*	will contribute a 1/dampfactor Dirac pulse to OUT
.subckt pid IN OUT GND
Gin 1 GND IN GND 1
Rp 1 2 {Kp}
Ci 2 3 {Ti/Kp}
Ld 3 GND {Kp*Td} Cpar=0
Rdamp 3 GND {1/dampfactor}
Rdummy 1 GND 1E30
Gout OUT GND 1 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	PID controller serial implementation
*	with dampened differentator for real world behavior and better convergence
*	Vo(s)/Vi(s) = Kp[ 1 + Td.s/(1 + dampfactor.Td.s)].[1 + 1/(Ti.s)] 
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with real world devices
*	Kp : proportional gain constant
*	Ti : intergration time constant
*	Td : differentation time constant
*	dampfactor : higher value means more damping. When a unit step is applied to IN the differentiator term 
*	will contribute a 1/dampfactor Dirac pulse to OUT
.subckt pid_serial IN OUT GND
Gin 1 GND IN GND 1
Rp 1 2 {Kp}
Ld 2 GND {Kp*Td} Cpar=0
Rdamp 2 GND {1/dampfactor}
G1 3 GND 1 GND 1
Rp2 3 4 {Kp}
Ci 4 GND {Ti/Kp}
Rdummy 3 GND 1E30
Gout GND OUT 3 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	subtractor
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with real world devices
.subckt sub IN+ IN- OUT GND
Gout OUT GND IN- IN+ TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	summator
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt sum IN1 IN2 OUT GND
Gin1 1 GND IN1 GND 1
Gin2 1 GND IN2 GND 1
Rsum 1 GND 1
Gout OUT GND 1 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	limiter
*	parameters:
*	limit_low : the output will not go lower then limit_low, the output will saturate as with 
*	real world devices
*	limit_high : the output will not go lower then limit_high, the output will saturate as with 
*	real world devices
.subckt lim IN OUT GND
Gout GND OUT IN GND TABLE=({limit_low},{limit_low},{limit_high},{limit_high})
Rout OUT GND 1
.ends

*	Gain with limiter
*	parameters:
*	gain : linear gain factor
*	limit_low : the output will not go lower then limit_low, the output will saturate as with 
*	real world devices
*	limit_high : the output will not go lower then limit_high, the output will saturate as with 
*	real world devices
.subckt gain_lim IN OUT GND
Gin GND 1 IN GND {sgn(gain)}
Rin 1 GND 1
Gout GND OUT 1 GND TABLE=({limit_low/abs(gain)},{limit_low},{limit_high/abs(gain)},{limit_high})
Rout OUT GND 1
.ends

*	1st order phase lag
*	Vo(s)/V(I(s) = K / [1 + Tc.s]
*	parameters:
*	K : linear gain factor
*	Tc : time constant
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt lag1 IN OUT GND
Gin 1 GND IN GND 1
R1 1 GND {K}
Ci 1 GND {Tc/K}
Gout OUT GND 1 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	2nd order phase lag
*	Vo(s)/V(I(s) = K / [1 + 2.Damping.s/wo + (s/wo)**2 ]
*	parameters:
*	K : linear gain factor
*	wo : natural circular frequency in RAD/s
*	Damping : damping factor, value of 1 is critically damped, lower then 1 is under-damped, ..
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt lag2 IN OUT GND
Gin 1 GND IN GND {K*1000}
Rshunt 1 GND 1m
R1 1 2 1k
L1 2 3  {1k/(2*Damping*wo)} Cpar=0 Rser=0 Rpar=1E30
C1 3 GND {2*Damping/(1k*wo)} Rser=0 Lser=0 Rpar=1E30 Cpar=0
Gout OUT GND 3 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	absolute value
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt abs IN OUT GND
Gout GND OUT IN GND TABLE=({-limit},{limit},0,0,{limit},{limit})
Rout OUT GND 1
.ends

*	pulse width modulator
*	
*	Parameters:
*	f : frequency of generated PWM signal
*	Vhigh : High level of generated PWM signal
*	Vlow : Low level of generated PWM signal
*	Range : range in which the input signal may vary, 0V gives 0% duty-cycle, 
*		<Range> V gives 100% duty-cycle
*		When the input signal goes outside Range, there is no problem only the duty-cycle 
*		saturates to 0% or 100%
.subckt pwm IN OUT GND
Bout GND OUT I=if(((Time-floor(Time*f)/f)*Range*f) < v(IN,GND), Vhigh, Vlow)
Rout OUT GND 1
.ends

*	pulse width modulator with complementary outputs
*	
*	Parameters:
*	f : frequency of generated PWM signal
*	Vhigh : High level of generated PWM signal
*	Vlow : Low level of generated PWM signal
*	Range : range in which the input signal may vary, 0V gives 0% duty-cycle, 
*		<Range> V gives 100% duty-cycle
*		When the input signal goes outside Range, there is no problem only the duty-cycle 
*		saturates to 0% or 100%
.subckt pwm2 IN OUT OUTN GND GNDN 
Bin GND 1 I=if(((Time-floor(Time*f)/f)*Range*f) < v(IN,GND), 1, 0)
Rin 1 GND 1
Bout GNDN OUTN I=if(absdelay(v(1,GND),deadtime)*v(1,GND) > .5, Vhigh, Vlow)
Rout GNDN OUTN 1
B2 GND 2 I=(1-v(1,GND))
R2 GND 2 1
Bout2 GND OUT I=if(absdelay(v(2,GND),deadtime)*v(2,GND) > .5, Vhigh, Vlow)
Rout2 GND OUT 1
.ends


*	SPDT switch
*	Parameters:
*	Threshold : switching level of the CONTR signal at which the switches react
.subckt spdt T1 T2 COM CONTR GND
S1 T1 COM CONTR GND swmodel1
S2 T2 COM GND CONTR swmodel2
.model swmodel1 SW(Ron=1m Roff=1000Meg Vt={Threshold} Vh=10m)
.model swmodel2 SW(Ron=1m Roff=1000Meg Vt={-Threshold} Vh=10m)
.ends

*	linear amplifier
*	Parameters:
*	gain: linear gain factor
.subckt amp IN OUT GND
Gout GND OUT IN GND {gain}
Rout OUT GND 1
.ends

*	2nd power
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt sqr IN OUT GND
Bin GND 1 I=V(IN,GND)*V(IN,GND)
Rin 1 GND 1
Gout GND OUT 1 GND TABLE=(0,0,{limit},{limit})
Rout OUT GND 1
.ends

*	square root
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt sqrt IN OUT GND
Bin GND 1 I=sqrt(V(IN,GND))
Rin 1 GND 1
Gout GND OUT 1 GND TABLE=(0,0,{limit},{limit})
Rout OUT GND 1
.ends

*	soft limiter
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt lim_soft IN OUT GND
Bout GND OUT I={limit*tanh(V(IN,GND)/scale)}
Rout OUT GND 1
.ends

*	multiplier
*	OUT = A * B in four quadrants
*	parameters:
*	limit : the output is limited between +limit and -limit, the output will saturate as with 
*	real world devices
.subckt mult A B OUT GND
Bin GND 1 I=V(A,GND)*V(B,GND)
Rin 1 GND 1
Gout GND OUT 1 GND TABLE=({-limit},{-limit},{limit},{limit})
Rout OUT GND 1
.ends

*	comparator with linear zone
*	parameters:
*	linearzone : when the input is between +linearzone and -linearzone, comparator behaves linearly
*	Vhigh : High level of generated signal
*	Vlow : Low level of generated signal
.subckt comp IN+ IN- OUT GND
Gout GND OUT IN+ IN- TABLE=({-linearzone},{Vlow},{+linearzone},{Vhigh})
Rout OUT GND 1
.ends

*	integrator
*	Parameters:
*	Ti : integration time constant
.subckt int IN OUT GND
Gin GND 1 IN GND 1
Cint 1 GND {Ti} 
Gout GND OUT 1 GND 1
Rout OUT GND 1
.ends

*	Dampened differentiator
*	dampened differentator for real world behavior and better convergence
*	Vo(s)/Vi(s) = Td.s/(1 + dampfactor.Td.s)
*	parameters:
*	Td : differentation time constant
*	dampfactor : higher value means more damping. When a unit step is applied to IN the differentiator term 
*	will contribute a 1/dampfactor Dirac pulse to OUT
.subckt diff IN OUT GND
Gin GND 1 IN GND 1
Ldiff 1 GND {Td} 
Rdamp 1 GND {1/dampfactor}
Gout GND OUT 1 GND 1
Rout OUT GND 1
.ends

*	comparator with hysteresis
*	parameters:
*	hysteresis : when the difference of the inputs reaches <hysteresis>, the output changes state
*	Vhigh : High level of output signal
*	Vlow : Low level of output signal
.subckt comphys IN+ IN- OUT GND
Bhyst IN+ A V=-hysteresis*V(1,GND)
Gin GND 1 A IN- TABLE=({-1u},-1,{+1u},1)
Rin 1 GND 1
Gout GND OUT 1 GND TABLE=({-1u},{Vlow},{+1u},{Vhigh})
Rout OUT GND 1
.ends

*	Transport lag
*	The output signal is a copy of the input signal but delayed in time by <delay> seconds
.subckt transport IN OUT GND
Gin GND 1 IN GND 2
R1 1 GND 1
T1 1 GND 2 GND Zo=1 Td={delay}
Rterm 2 GND 1
Gout GND OUT 2 GND 1
Rout OUT GND 1
.ends

*	setpoint
*	generates a constant voltage of <value> volts, alternative for the V source
.subckt const OUT GND
Iout GND OUT {value}
Rout OUT GND 1
.ends

*	unit step
.subckt ustep OUT GND
Iout GND OUT PWL(0,0,{tstep-trise/2},0,{tstep+trise/2},1)
Rout OUT GND 1
.ends

*	unit ramp
.subckt uramp OUT GND
I1 1 GND DC {slope}
C1 1 GND 1
Gout OUT GND 1 GND 1
Rout GND OUT 1
.ends

*	trimmer
*	Parameters:
*	position : wiper position between 0.0 and 1.0
*	Rvalue : total resistance value
.subckt trimmer T1 T2 WIPER
Rupper T1 WIPER {(1-position)*Rvalue+1m}
Rlower T2 WIPER {position*Rvalue+1m}
.ends

*	R-2R DAC
*	no parameters
.subckt dac OUT GND D0 D1 D2 D3 D4 D5 D6 D7 
R7 D7 8 200K
R6 D6 7 200K
R5 D5 6 200K
R4 D4 5 200K
R3 D3 4 200K
R2 D2 3 200K
R1 D1 2 200K
R0 D0 1 200K
R9 8 7 100k
R10 7 6 100k
R11 6 5 100k
R12 5 4 100k
R13 4 3 100k
R14 3 2 100k
R15 2 1 100k
R16 1 0 200k
Gout GND OUT 8 0 1
Rout OUT GND 1
.ends

*	Block to measure open and closed loop gain according a proposal of Helmut Sennewald from http://tech.groups.yahoo.com/group/LTspice/
*	parameters:
*	OPL=1 for open loop AC simulation,
*	OPL=0 for all types of closed loop simulations
.subckt measure_loop IN OUT GND
G1 1 GND IN GND 1m
*	OPL=1 allows only DC (very very low f) to reach the output for DC operating point setting
C1 1 GND {10000*OPL + 1f}  
R1 1 GND 1000
G2 OUT GND 1 GND 1
R2 OUT GND 1
I1 OUT GND AC 1 * injecting AC test signal
.ends



 